US06579883B1
7-Vinyl-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one
A solution of 2.0 g (7.6 mmol) of 7-bromo-1,2,3,5-tetrahydrocyclopenta[c]-quinolin-4-one, 2.6 ml (9.9 mmol) of vinyltributyltin and 0.44 g (0.38 mmol) of tetrakis(triphenylphosphine)palladium is degassed and aerated with nitrogen. After 6 hours of heating to 110° C., the batch is concentrated by evaporation and the residue is taken up on silica gel. Column chromatography on silica gel with hexane-ethyl acetate yields 1.41 g of product.

reactant | 7-bromo-1,2,3,5-tetrahydrocyclopenta[c]-quinolin-4-one | 7.6 mmol, 2.0 g | BrC=1C=CC=2C3=C(C(NC2C1)=O)CCC3 | C12H10BrNO
reactant | vinyltributyltin | 9.9 mmol, 2.6 ml | C(=C)[Sn](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 0.38 mmol, 0.44 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-Vinyl-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one | 1.41 g | C(=C)C=1C=CC=2C3=C(C(NC2C1)=O)CCC3 | C14H13NO
